US06043365
A mixture of 64.5 g of 2-fluoro-β(R)-(hydroxymethyl)benzenepropionitrile, 450 mL of toluene, and 106.2 g of triphenylmethyl chloride is stirred at 20-22° C. for 10 minutes to afford a brown solution; 54 g of triethylanine is added rapidly over a period of 10 minutes while maintaining an internal temperature of <30° C. The reaction mixture is stirred at an internal temperature of 35° C., (external temperature: 41° C.) for 24 hours to obtain a light, brown suspension. The tritylation reaction is catalyzed by water. The reaction progress is monitored by HPLC to determine if water addition is required. If after 4 hours, more than about 30% of starting material is left, 1 g of water is added. If after 20 hours, the amount of starting material is still more than 15%, an additional 1 g of water is added. After 24 hours, an additional 17 g of triphenylmethyl chloride and 7 g of triethylamine are added, the resulting suspension is stirred for an additional 24 hours at 35° C. and cooled to room temperature; 58 mL of methanol is added dropwise over 10 minutes, while maintaining an internal temperature of 30-35° C. The reaction mixture is stirred for 40 minutes at an internal temperature of 20-25° C. The mixture is concentrated under reduced pressure (20-50 mbar; bath temperature 45-50° C.) to obtain crude 2-fluoro-β(R)-[(triphenylmethyl)oxy]benzenepropionitrile as a red semi-solid. The semi-solid is suspended in 800 mL of methanol. The slurry is stirred at an internal temperature of 50° C. for 40 minutes, then at 20-22° C. for 30 minutes, and filtered to obtain, after washing the product with methanol and drying it under vacuum (30 mbar) at 45-50° C. for 4 hours or to constant weight, 2-fluoro-β(R)-[(triphenylmethyl)oxy]benzenepropionitrile; chiral purity: >99% ee.

reactant | 2-fluoro-β(R)-(hydroxymethyl)benzenepropionitrile | 64.5 g | FC1=C(C=CC=C1)[C@@H](CC#N)CO | C10H10FNO
reactant | toluene | 450 mL | C1(=CC=CC=C1)C | C7H8
reactant | triphenylmethyl chloride | 106.2 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | water | O | H2O
reactant | water | 1 g | O | H2O
reactant | water | 1 g | O | H2O
reactant | triphenylmethyl chloride | 17 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
solvent | methanol | 58 mL | CO | CH4O
solvent | triethylamine | 7 g | C(C)N(CC)CC | C6H15N
product | 2-fluoro-β(R)-[(triphenylmethyl)oxy]benzenepropionitrile | FC1=C(C=CC=C1)[C@@H](CC#N)OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C28H22FNO
